### PR TITLE
[Merged by Bors] - feat: Sedrakyan's lemma

### PR DESCRIPTION
**Pull request by vihdzp**
This is a specialization of the Cauchy-Schwarz inequality which is often useful in math olympiad problems.

In order to prove it in general ordered semifields, we have to show slightly more general forms of the AM-GM and Cauchy-Schwarz inequalities, which indirectly work with square roots.

Co-authored-by: Alex Brodbelt <64128135+AlexBrodbelt@users.noreply.github.com>
Co-authored-by: Heather Macbeth <25316162+hrmacbeth@users.noreply.github.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Real/Sqrt.lean [hunk 1]
```diff
@@ -455,4 +455,21 @@ lemma sum_sqrt_mul_sqrt_le (s : Finset ι) (hf : ∀ i, 0 ≤ f i) (hg : ∀ i,
     ∑ i ∈ s, √(f i) * √(g i) ≤ √(∑ i ∈ s, f i) * √(∑ i ∈ s, g i) := by
   simpa [*] using sum_mul_le_sqrt_mul_sqrt _ (fun x ↦ √(f x)) (fun x ↦ √(g x))
 
+/-- **Sedrakyan's lemma**, also known by other names such as Titu's lemma or Engel's form. This is a
+specialization of the Cauchy-Schwarz inequality with the sequences `f n / √(g n)` and `√(g n)`. -/
+theorem sq_sum_div_le_sum_sq_div {s : Finset ι} (f : ι → ℝ) {g : ι → ℝ} (hg : ∀ i ∈ s, 0 < g i) :
+    (∑ n ∈ s, f n) ^ 2 / ∑ n ∈ s, g n ≤ ∑ n ∈ s, (f n) ^ 2 / g n := by
```
Comment (eric-wieser) [inline Mathlib/Data/Real/Sqrt.lean:461]: It seems a little unfortunate that this lemma only works for `Real` and not `NNReal`. Presumably it's also true for `Rat`?

Comment (vihdzp) [reply Mathlib/Data/Real/Sqrt.lean:461]: It should be true for any linearly ordered field, the same way Cauchy-Schwarz is. But if CS isn't in Mathlib then I don't think there's much case in trying to generalize this inequality.

Comment (vihdzp) [reply Mathlib/Data/Real/Sqrt.lean:461]: (I don't actually know how you'd Sedrakyan for linear orders fields, other than to work in the quadratic closure. For Cauchy-Schwarz the proof with bilinear forms generalizes directly.)

Comment (eric-wieser) [reply Mathlib/Data/Real/Sqrt.lean:461]: > But if CS isn't in Mathlib then I don't think there's much case in trying to generalize this inequality.

I don't really understand what you mean by that. Cauchy-Schwarz is in mathlib in the general case, but your application of the lemma requires a square root function which obviously doesn't work for Rat. So the loss of generality seems to be a function of your proof, not of the lemmas in mathlib.

If the generalization is awkward a TODO would suffice.

**Comment by eric-wieser** [comment]
Orthogonal to my question above, I wonder if we want the "generalized form" from https://brilliant.org/wiki/titus-lemma/#generalized-form as well.

**Comment by vihdzp** [comment]
I didn't even know there was a generalized form! I think we can add it later if it ever becomes useful for anything.

File: Mathlib/Data/Real/Sqrt.lean (hunk 1 above)
Comment (acmepjz) [reply Mathlib/Data/Real/Sqrt.lean:461]: > requires a square root function which obviously doesn't work for Rat

What about taking a real closure (do we have this in mathlib?), or simply taking a real quadratic extension?

Comment (vihdzp) [reply Mathlib/Data/Real/Sqrt.lean:461]: Ah, sorry. I think I saw the earlier theorems in this file (the ones about square roots) were specific to real numbers and assumed the same for `Finset.sum_mul_sq_le_sq_mul_sq`.

I've shot my shot at [Stack Exchange](https://math.stackexchange.com/q/5001456/718671) asking for a proof of Sedrakyan without linear ordered fields. If anyone can come up with that then we'll be able to avoid a lot of field shenanigans :)

Comment (jsm28) [reply Mathlib/Data/Real/Sqrt.lean:461]: I think what's actually needed is a more general version of `sum_mul_sq_le_sq_mul_sq`, where `f i ^ 2` and `g i ^ 2` are replaced by arbitrary nonnegative values (not necessarily squares, to avoid needing square roots); given the more general Cauchy-Schwarz in semirings, this result should follow. That is, something like

```lean
lemma sum_sq_le_sum_mul_sum_of_sq_eq_mul (s : Finset ι) {t f g : ι → R}
    (ht : ∀ i, t i ^ 2 = f i * g i) (hf : ∀ i, 0 ≤ f i) (hg : ∀ i, 0 ≤ g i) :
    (∑ i ∈ s, t i) ^ 2 ≤ (∑ i ∈ s, f i) * ∑ i ∈ s, g i := by
  sorry
```

(for `[LinearOrderedCommSemiring R] [ExistsAddOfLE R]`, like the original). The existing proof of `sum_mul_sq_le_sq_mul_sq` uses `two_mul_le_add_sq` as the essential use of "squares are nonnegative"; instead you probably need a lemma of the form `2 * t ≤ a + b` given `t ^ 2 = a * b`, `0 ≤ a` and `0 ≤ b` (don't know if we already have it, but it follows in an ordered semiring by squaring both sides).

Comment (vihdzp) [reply Mathlib/Data/Real/Sqrt.lean:461]: I've pushed a proof of this auxiliary lemma. I'll try using it to generalize Cauchy-Schwarz and then Sedrakyan.

Comment (vihdzp) [reply Mathlib/Data/Real/Sqrt.lean]: Proofs successfully generalized!

File: Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean [hunk 2]
```diff
@@ -125,25 +125,52 @@ section LinearOrderedCommSemiring
...
-    _ ≤ ∑ i ∈ s, ((f i * ∑ j ∈ s, g j ^ 2) ^ 2 + (g i * ∑ j ∈ s, f j * g j) ^ 2) :=
-        sum_le_sum fun i _ ↦ two_mul_le_add_sq (f i * ∑ j ∈ s, g j ^ 2) (g i * ∑ j ∈ s, f j * g j)
-    _ = _ := by simp_rw [sum_add_distrib, mul_pow, ← sum_mul]; ring
+  · refine le_of_mul_le_mul_of_pos_left
+      (le_of_add_le_add_left (a := (∑ i ∈ s, g i) * (∑ i ∈ s, t i) ^ 2) ?_) h
+    calc
+      _ = ∑ i ∈ s, 2 * t i * (∑ j ∈ s, g j) * (∑ j ∈ s, t j) := by
+          simp_rw [mul_assoc, ← mul_sum, ← sum_mul]; ring
+      _ ≤ ∑ i ∈ s, (f i * (∑ j ∈ s, g j) ^ 2 + g i * (∑ j ∈ s, t j) ^ 2) := by
+          refine sum_le_sum fun i hi ↦ ?_
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean:142]:
```suggestion
          gcongr with i hi
```

File: Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean [hunk 3]
```diff
@@ -125,25 +125,52 @@ section LinearOrderedCommSemiring
...
+          refine le_of_eq_of_le ?_ (two_mul_le_add_of_sq_eq_mul
+            (mul_nonneg (hf i hi) (sq_nonneg _)) (mul_nonneg (hg i hi) (sq_nonneg _)) ht)
+          repeat rw [mul_assoc]
+      _ = _ := by simp_rw [sum_add_distrib, ← sum_mul]; ring
+
+/-- **Cauchy-Schwarz inequality** for finsets, squared version. -/
+lemma sum_mul_sq_le_sq_mul_sq (s : Finset ι) (f g : ι → R) :
+    (∑ i ∈ s, f i * g i) ^ 2 ≤ (∑ i ∈ s, f i ^ 2) * ∑ i ∈ s, g i ^ 2 :=
+  sum_sq_le_sum_mul_sum_of_sq_eq_mul s
+    (fun _ _ ↦ sq_nonneg _) (fun _ _ ↦ sq_nonneg _) (fun _ _ ↦ mul_pow _ _ _)
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean:156]:
```suggestion
    (fun _ _ ↦ sq_nonneg _) (fun _ _ ↦ sq_nonneg _) (fun _ _ ↦ mul_pow ..)
```

File: Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean [hunk 4]
```diff
@@ -125,25 +125,52 @@ section LinearOrderedCommSemiring
...
 
 end LinearOrderedCommSemiring
 
+/-- **Sedrakyan's lemma**, also known by other names such as Titu's lemma or Engel's form.
+
+This is a specialization of the Cauchy-Schwarz inequality with the sequences `f n / √(g n)` and
+`√(g n)`, though here it is proven without relying on square roots. -/
+theorem sq_sum_div_le_sum_sq_div [LinearOrderedSemifield R] [ExistsAddOfLE R] (s : Finset ι)
+    (f : ι → R) {g : ι → R} (hg : ∀ i ∈ s, 0 < g i) :
+    (∑ i ∈ s, f i) ^ 2 / ∑ i ∈ s, g i ≤ ∑ i ∈ s, (f i) ^ 2 / g i := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean:166]:
```suggestion
    (∑ i ∈ s, f i) ^ 2 / ∑ i ∈ s, g i ≤ ∑ i ∈ s, f i ^ 2 / g i := by
```

File: Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean [hunk 5]
```diff
@@ -125,25 +125,52 @@ section LinearOrderedCommSemiring
...
+
+/-- **Cauchy-Schwarz inequality** for finsets, squared version. -/
+lemma sum_mul_sq_le_sq_mul_sq (s : Finset ι) (f g : ι → R) :
+    (∑ i ∈ s, f i * g i) ^ 2 ≤ (∑ i ∈ s, f i ^ 2) * ∑ i ∈ s, g i ^ 2 :=
+  sum_sq_le_sum_mul_sum_of_sq_eq_mul s
+    (fun _ _ ↦ sq_nonneg _) (fun _ _ ↦ sq_nonneg _) (fun _ _ ↦ mul_pow _ _ _)
 
 end LinearOrderedCommSemiring
 
+/-- **Sedrakyan's lemma**, also known by other names such as Titu's lemma or Engel's form.
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean:160]:
```suggestion
/-- **Sedrakyan's lemma**, aka **Titu's lemma** or **Engel's form**.
```

File: Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean [hunk 6]
```diff
@@ -125,25 +125,52 @@ section LinearOrderedCommSemiring
...
+
+This is a specialization of the Cauchy-Schwarz inequality with the sequences `f n / √(g n)` and
+`√(g n)`, though here it is proven without relying on square roots. -/
+theorem sq_sum_div_le_sum_sq_div [LinearOrderedSemifield R] [ExistsAddOfLE R] (s : Finset ι)
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean:164]: Can you move this out of the `LinearOrderedCommSemiring` section?

**Review by YaelDillies — COMMENTED** [review]
Thanks! Looks like a great improvement over the original version

File: Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean [hunk 7]
```diff
@@ -125,22 +125,35 @@ section LinearOrderedCommSemiring
 variable [LinearOrderedCommSemiring R] [ExistsAddOfLE R]
 
 /-- **Cauchy-Schwarz inequality** for finsets. -/
```
Comment (eric-wieser) [inline Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean:127]: I think this could use an explanation in the docstring of the unusual statement.

File: Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean (hunk 6 above)
Comment (vihdzp) [reply Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean:168]: Actually, I think it makes more sense to just have a "named inequalities" section in the file. (I also want to add Nesbitt in a subsequent PR, which can be proven as a consequence of Sedrakyan).

File: Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean [hunk 8]
```diff
@@ -124,7 +124,11 @@ end OrderedCommSemiring
 section LinearOrderedCommSemiring
 variable [LinearOrderedCommSemiring R] [ExistsAddOfLE R]
 
-/-- **Cauchy-Schwarz inequality** for finsets. -/
+/-- **Cauchy-Schwarz inequality** for finsets.
+
+This is written in terms of sequences `f`, `g`, and `t`, where `t` is a stand-in for
+`√(f i * g i)`. See `sum_mul_sq_le_sq_mul_sq` for the more usual form in terms of squared
+sequences. -/
 lemma sum_sq_le_sum_mul_sum_of_sq_eq_mul (s : Finset ι) {t f g : ι → R}
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean:132]:
```suggestion
lemma sum_sq_le_sum_mul_sum_of_sq_eq_mul (s : Finset ι) {r f g : ι → R}
```
since it's a square-root, and not a finset?

File: Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean (hunk 6 above)
Comment (vihdzp) [reply Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean:196]: I've reordered the file slightly, does this change make sense?

File: Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean [hunk 9]
```diff
@@ -120,41 +123,10 @@ lemma prod_add_prod_le {i : ι} {f g h : ι → R} (hi : i ∈ s) (h2i : g i + h
...
-    (le_of_add_le_add_left (a := (∑ i ∈ s, g i ^ 2) * (∑ j ∈ s, f j * g j) ^ 2) ?_) h'
-  calc
-    _ = ∑ i ∈ s, 2 * (f i * ∑ j ∈ s, g j ^ 2) * (g i * ∑ j ∈ s, f j * g j) := by
-        simp_rw [mul_assoc (2 : R), mul_mul_mul_comm, ← mul_sum, ← sum_mul]; ring
-    _ ≤ ∑ i ∈ s, ((f i * ∑ j ∈ s, g j ^ 2) ^ 2 + (g i * ∑ j ∈ s, f j * g j) ^ 2) :=
-        sum_le_sum fun i _ ↦ two_mul_le_add_sq (f i * ∑ j ∈ s, g j ^ 2) (g i * ∑ j ∈ s, f j * g j)
-    _ = _ := by simp_rw [sum_add_distrib, mul_pow, ← sum_mul]; ring
-
-theorem sum_mul_self_eq_zero_iff (s : Finset ι) (f : ι → R) :
+theorem sum_mul_self_eq_zero_iff [LinearOrderedRing R] (s : Finset ι) (f : ι → R) :
```
Comment (eric-wieser) [inline Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean:126]: This previously was proven for `LinearOrderedCommSemiring`, but now it's proven for `LinearOrderedRing` instead. Either we need a proof that works for `LinearOrderedSemiring`, or we need two versions of this lemma for those two cases.

Comment (vihdzp) [reply Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean:126]: I *think* this was just a typo, let me make sure my proof still works in that case.

File: Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean [hunk 10]
```diff
@@ -184,11 +156,63 @@ lemma prod_add_prod_le' (hi : i ∈ s) (h2i : g i + h i ≤ f i) (hgf : ∀ j 
       assumption
 
 end CanonicallyOrderedCommSemiring
+
+/-! ### Named inequalities -/
+
```
Comment (eric-wieser) [inline Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean:161]: I suspect this grouping isn't particularly helpful in the long term, because inevitably it ends up being desirable to extract a helper lemma that sits between these. I'll let @YaelDillies decide though.

**Comment by eric-wieser** [comment]
bors d=@YaelDillies

Thanks, this now looks great!

File: Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean (hunk 10 above)
Comment (vihdzp) [reply Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean:161]: Fair, this wasn't meant so much as a "inequalities with names go here" but rather as a "the more difficult and mathematically interesting results go here".

Comment (YaelDillies) [reply Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean:161]: I suspect it will change again once we add the inequalities you both mentioned, but until then this looks like a mostly okay sectioning.

bors merge
